US05514680
7-Bromo-6-fluoro-3,4-dihydroquinoxaline-2(1H)-one
A solution of mixture of N-(4-bromo-5-fluoro-2-nitrophenyl)glycine and N-(2-bromo-5-fluoro-4-nitrophenyl)glycine (0.150 g, 0.512 mmol, as prepared above) and tin (II) chloride dihydrate (0.346 g, 1.53 mmol, Aldrich, used as received) in ethanol (3.0 mL) was refluxed for 30 min. It was then cooled to r.t. and the solvent was removed under vacuum. The residue was diluted with water (10 mL) and basified with saturated NaHCO3 (3.0 mL) to pH~8. The resulting white suspension was extracted with ethyl acetate (30 mL). The extract was dried over Na2SO4 and evaporated to yield 0.050 g of crude product which was purified by precipitation from ethanol: water (1:1) to give 30 mg (24%) of pure title compound as a light yellow powder; m.p. 172° C. (decomposed); 1H NMR (DMSO-d6):3.73 (s, 2H), 6.37 (s, 1H), 6.551 (d, 1H, J=10.2 Hz), 6.825 (d, 1H, J=6.6 Hz), 10.303 (s, 1H).

reactant | N-(4-bromo-5-fluoro-2-nitrophenyl)glycine | BrC1=CC(=C(C=C1F)NCC(=O)O)[N+](=O)[O-] | C8H6BrFN2O4
reactant | N-(2-bromo-5-fluoro-4-nitrophenyl)glycine | 0.512 mmol, 0.150 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])F)NCC(=O)O | C8H6BrFN2O4
reactant | tin (II) chloride dihydrate | 1.53 mmol, 0.346 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 7-Bromo-6-fluoro-3,4-dihydroquinoxaline-2(1H)-one | 30 mg, 24% | BrC1=C(C=C2NCC(NC2=C1)=O)F | C8H6BrFN2O
